US09340546B2
4-chloro-3-nitro-pyridine (100 mg, 0.6307 mmol), 4-pyridylboronic acid (77.52 mg, 0.6307 mmol), palladium; triphenylphosphane (36.45 mg, 0.03154 mmol), K3PO4 (946.0 μL, of 2 M, 1.892 mmol) in dioxane (3 mL) was heated at 130° C. for 30 min in a microwave. The mixture was loaded on a SCX column, washed with MeOH. The product was eluted with a 2M NH3 in MeOH. The filtrate was concentrated in vacuo. The residue was dissolved in MeOH (20 mL), Pd/C 10% (42.04 mg, 0.3950 mmol) was added and the mixture was hydrogenated (H2 balloon) overnight. The catalyst was filtered off and the filtrate was concentrated in vacuo yielding [4,4′-bipyridin]-3-amine that was used in next step without further purification. MS (ES+) 172.1.

reactant | 4-chloro-3-nitro-pyridine | 0.6307 mmol, 100 mg | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-pyridylboronic acid | 0.6307 mmol, 77.52 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | triphenylphosphane | 0.03154 mmol, 36.45 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | K3PO4 | 1.892 mmol, 2 M, 946.0 μL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | palladium | [Pd] | Pd
catalyst | Pd/C | 0.3950 mmol, 42.04 mg | [Pd] | Pd
product | [4,4′-bipyridin]-3-amine | N1=CC(=C(C=C1)C1=CC=NC=C1)N | C10H9N3
